US08053453B2
2) Synthesis of 4-methoxycarbonylbenzoic N′-(1-(1-(4-tert-butylphenyl)-3-methyl-5-oxo-1,5-dihydropyrazol-4-ylidene)-ethyl)-hydrazide
30.5 mg (0.11 mmol) of 1-(1-(4-tert-butylphenyl)-5-hydroxy-3-methyl-1H-pyrazol-4-yl)-ethanone and 23.1 mg (0.11 mmol) of 4-methoxycarbonylbenzhydrazide were dissolved in 3.0 ml of DMF and stirred at 100° C. for 3 hours. After cooling and evaporation of the solvent, the crude product was recrystallized from ethyl acetate/n-hexane to give 32.9 mg of the desired product as a yellow solid (yield 66%).

reactant | 1-(1-(4-tert-butylphenyl)-5-hydroxy-3-methyl-1H-pyrazol-4-yl)-ethanone | 0.11 mmol, 30.5 mg | C(C)(C)(C)C1=CC=C(C=C1)N1N=C(C(=C1O)C(C)=O)C | C16H20N2O2
reactant | 4-methoxycarbonylbenzhydrazide | 0.11 mmol, 23.1 mg | COC(=O)C1=CC=C(C(=O)NN)C=C1 | C9H10N2O3
solvent | DMF | 3.0 ml | CN(C)C=O | C3H7NO
product | 4-methoxycarbonylbenzoic N′-(1-(1-(4-tert-butylphenyl)-3-methyl-5-oxo-1,5-dihydropyrazol-4-ylidene)-ethyl)-hydrazide | 32.9 mg, yield 66% | C(C)(C)(C)C1=CC=C(C=C1)N1N=C(C(C1=O)=C(C)NNC(C1=CC=C(C=C1)C(=O)OC)=O)C | C25H28N4O4
